US07053212B2
Step B: N-(4-Hydroxy-benzyl)-N-(4-iodo-phenyl)-benzenesulfonamide
To a solution of (4-iodo-phenyl)-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine (3.43 g, 8.38 mmol) in 10 mL methylene chloride was added triethylamine (2.0 mL, 14.35 mmol) and benzenesulfonyl chloride (1.2 mL, 9.40 mmol). The reaction mixture was stirred at room temperature for 24 hr. The reaction mixture was quenched with water, was acidified with 1N HCl, and the aqueous solution was washed three times with methylene chloride. The combined organic extracts were washed with saturated aqueous sodium bicarbonate, dried (magnesium sulfate), filtered, and concentrated. The residue was dissolved in methanol and the solution was treated with a catalytic amount of 1N HCl. The reaction mixture was stirred at room temperature for 20 hr. The reaction mixture was made basic with saturated aqueous sodium bicarbonate and the aqueous solution was washed two times with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated. Medium pressure silica gel chromatography (10% ethyl acetate/hexanes to 20% ethyl acetate/hexanes) afforded 3.21 g (82%) of the title compound of Step B.

reactant | (4-iodo-phenyl)-[4-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 8.38 mmol, 3.43 g | IC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC1OCCCC1 | C18H20INO2
reactant | triethylamine | 14.35 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 9.40 mmol, 1.2 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Hydroxy-benzyl)-N-(4-iodo-phenyl)-benzenesulfonamide | 3.21 g, 82% | OC1=CC=C(CN(S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)I)C=C1 | C19H16INO3S
